US07229999B2
N-(2-Cyclopropyl-2-hydroxy-propyl)-5-(4-fluoro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 11, using 5-bromo-6-chloro-nicotinic acid methylester, 2,2,2-trifluoro-ethanol (commercially available), 4-fluorophenyl-boronic acid (commercially available) and 2-cyclopropyl-2-hydroxy-propylamine (commercially available) as starting materials. MS (m/e): 413 (MH+).

reactant | 5-bromo-6-chloro-nicotinic acid methylester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 2,2,2-trifluoro-ethanol | FC(CO)(F)F | C2H3F3O
reactant | 4-fluorophenyl-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | 2-cyclopropyl-2-hydroxy-propylamine | C1(CC1)C(CN)(C)O | C6H13NO
product | N-(2-Cyclopropyl-2-hydroxy-propyl)-5-(4-fluoro-phenyl)-6-(2,2,2-trifluoro-ethoxy)-nicotinamide | C1(CC1)C(CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)OCC(F)(F)F)=O)(C)O | C20H20F4N2O3
